US05403947
Cyclopentene in an amount of 136 g (2.00 moles) was made to react with dichlorosilane under various conditions set forth in Table 1, and then the solvent was distilled away. Thus, in analogy with Example 1, dicyclopentyldichlorosilane having a boiling point of 104° C./5 mmHg was obtained in various yields. The yield attained under each reaction condition is shown in Table 1.

reactant | Cyclopentene | C1=CCCC1 | C5H8
reactant | dichlorosilane | Cl[SiH2]Cl | Cl2H2Si
product | dicyclopentyldichlorosilane | C1(CCCC1)[Si](Cl)(Cl)C1CCCC1 | C10H18Cl2Si
